* C:\Users\Nahuel\OneDrive - UTN.BA\2022\Teoría de Circuitos II\Practica\Trabajo Semanal\TS6\LTSpice\Circuito_param.asc
C11 N003 N001 {C_11}
R12 N005 N003 {R_2}
XU1 N004 N002 N005 opamp Aol=100K GBW=10Meg
C22 N002 Vo1 {C_11}
R13 N004 N005 {R}
R14 Vo1 N004 {R}
R15 N002 N001 {R_5}
XU2 N004 N003 Vo1 opamp Aol=100K GBW=10Meg
V1 N001 0 AC 1
R11 0 N003 {R}
C2 Vo Vo1 {C_2}
R2 Vo 0 {R}
.param R= wz
.param C_11 = {1/{ww*wz}}
.param C_2 = {1/{ww*wz}}
.param R_5 = {9*wz/8}
.inc opamp.sub
.ac dec 10000 0.01 10
.param wz=1 ww=2*pi
.param R_2 = {8*wz/9}
.backanno
.end
